US08614206B2
tert-Butyl 5-azido-3-hydroxy-3-methylazepane-1-carboxylate
To a stirred solution of (Z)-tert-butyl 3-oxo-2,3,6,7-tetrahydro-1H-azepine-1-carboxylate (15 g, 71.1 mmol) in acetonitrile (25 mL) was added trimethylsilylazide (28.2 mL, 213 mmol) followed by Amberlite IRA 900F resin (loading: 2-3 mmol/g, 18 g) and the mixture was heated at 60° C. for 4 hr. After standing at room temperature for 16 hr, the resin was filtered off, washed with acetonitrile and the solvent removed under reduced pressure to give a yellow oil. To a solution of this oil (813 mg, 3.2 mmol) in dry Et2O (20 ml) cooled in an ice-salt bath was added a solution of methyl lithium (1.6 M in Et2O, 2.1 mL, 3.36 mmol) dropwise over 10 mins. After stirring for a further 1.5 hr, saturated NaHCO3 (10 mL) was added and the mixture was extracted with EtOAc (2×20 mL). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure to afford a green oil (0.8 g, 81% over four steps). 1H NMR (400 MHz, CDCl3) δ 4.00-2.65 (m, 6H), 2.30-1.60 (m, 4H), 1.55-1.20 (m, 12H).

reactant | (Z)-tert-butyl 3-oxo-2,3,6,7-tetrahydro-1H-azepine-1-carboxylate | 71.1 mmol, 15 g | O=C\1CN(CC\C=C1)C(=O)OC(C)(C)C | C11H17NO3
reactant | trimethylsilylazide | 213 mmol, 28.2 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | methyl lithium | 3.36 mmol, 1.6 M, 2.1 mL | C[Li]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | Et2O | 20 ml | CCOCC | C4H10O
product | tert-Butyl 5-azido-3-hydroxy-3-methylazepane-1-carboxylate | N(=[N+]=[N-])C1CC(CN(CC1)C(=O)OC(C)(C)C)(C)O | C12H22N4O3
